US09328067B2
Methyl 2-(((2-amino-4-methylphenyl)thio)methyl)benzoate
Following General Procedure L, the title compound (567 mg, 85%) was prepared from methyl 2-(((4-methyl-2-nitrophenyl)thio)methyl)benzoate (741 mg, 2.34 mmol), Zn (3.7 g, 58.44 mmol) and saturated aqueous NH4Cl (1 ml) in MeOH (20 ml).

reactant | methyl 2-(((4-methyl-2-nitrophenyl)thio)methyl)benzoate | 2.34 mmol, 741 mg | CC1=CC(=C(C=C1)SCC1=C(C(=O)OC)C=CC=C1)[N+](=O)[O-] | C16H15NO4S
reactant | NH4Cl | 1 ml | [NH4+].[Cl-]
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Zn | 58.44 mmol, 3.7 g | [Zn] | Zn
product | Methyl 2-(((2-amino-4-methylphenyl)thio)methyl)benzoate | 567 mg, 85% | NC1=C(C=CC(=C1)C)SCC1=C(C(=O)OC)C=CC=C1 | C16H17NO2S
